US06235731B1
5) Synthesis of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 583.9 mg (1.34 mM) of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added 10 ml (40 mM) of 4N-HCl/methanol and the mixture was stirred at room temperature for several minutes. After the solvent was distilled off under reduced pressure, 2-propanol was added and the resulting crystals were filtered off. The filtrate was concentrated to provide the title compound as light-brown amorphous substance.

reactant | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.34 mM, 583.9 mg | C1(=CC=CC=C1)CCCN1CCC(CC1)CNC(=O)C1CC2=CN=C3C=CC=C(S1)N32 | C25H30N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)CNC(=O)C1CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H30N4OS.2ClH/c30-25(22-16-21-18-26-23-9-4-10-24(31-22)29(21)23)27-17-20-11-14-28(15-12-20)13-5-8-19-6-2-1-3-7-19;;/h1-4,6-7,9-10,18,20,22H,5,8,11-17H2,(H,27,30);2*1H
